US06777557B2
2-(1-hydroxyethyl)-3-[2-oxo-2-(1-pyrrolidinyl)ethyl]thiazolium chloride
1-(2-Thiazolyl)ethanol (1.14 g, 8.8 mmole), N-chloroacetylpyrrolidine (1.30 g, 8.8 mmole), and acetonitrile (1.25 mL) were combined and heated at reflux in an oil bath at 105-110 C. for 6 hr. Acetonitrile (8 mL) was added and heating was continued 10 min. The cooled, clear solution was treated with ether (10 mL), causing an oil to separate, which crystalized on standing at room temp. overnight. Filtration and washing with 30% ether/acetonitrile gave 1.86 g crude product which was dissolved in methanol, decolorized, and evaporated to dryness. The residue was recrystalized from acetonitrile/ether and from methanol/acetonitrile/ether to yield 1.63 g of the title compound, mp 189-190 C. (dec.).

reactant | 1-(2-Thiazolyl)ethanol | 8.8 mmole, 1.14 g | S1C(=NC=C1)C(C)O | C5H7NOS
reactant | N-chloroacetylpyrrolidine | 8.8 mmole, 1.30 g | ClCC(=O)N1CCCC1 | C6H10ClNO
reactant | acetonitrile | 1.25 mL | C(C)#N | C2H3N
reactant | Acetonitrile | 8 mL | C(C)#N | C2H3N
reactant | ether | 10 mL | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | 2-(1-hydroxyethyl)-3-[2-oxo-2-(1-pyrrolidinyl)ethyl]thiazolium chloride | 1.63 g | [Cl-].OC(C)C=1SC=C[N+]1CC(N1CCCC1)=O | InChI=1S/C11H17N2O2S.ClH/c1-9(14)11-13(6-7-16-11)8-10(15)12-4-2-3-5-12;/h6-7,9,14H,2-5,8H2,1H3;1H/q+1;/p-1
